US06903107B1
1a. 6-Methoxy-isoquinoline-N-oxide hydrochloride
At room temperature 133 g of m-chloroperbenzoic acid (purity 75%) was added in portions to a stirred solution of 6-methoxy-isoquinoline [Hendrickson, J. B.; Rodriguez, C.; J. Org. Chem. 1983, 48, 3344-3346; 79.8 g; 500 mmol] in 1.2 L of dichloromethane. Stirring was continued for 3 hours and subsequently methanol (1 L) was added. The bulk was reduced to 700 mL after which 800 mL of a saturated solution of hydrogen chloride in diethyl ether was added. Dilution with 1.5 L of diethyl ether resulted in precipitation of yellow crystals, which were separated by filtration, washed with chilled diethyl ether and dried in vacuo. Yield: 85 g (80%); white solid; m.p. 189-191° C.; (+)-FAB-MS: 176 (MH+-HCl).

reactant | m-chloroperbenzoic acid | 133 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-methoxy-isoquinoline | 500 mmol, 79.8 g | COC=1C=C2C=CN=CC2=CC1 | C10H9NO
reactant | methanol | 1 L | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 1.2 L | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1.5 L | C(C)OCC | C4H10O
product | 6-Methoxy-isoquinoline-N-oxide hydrochloride | Cl.COC=1C=C2C=C[N+](=CC2=CC1)[O-] | InChI=1S/C10H9NO2.ClH/c1-13-10-3-2-9-7-11(12)5-4-8(9)6-10;/h2-7H,1H3;1H
